US06498172B1
3-(3-{[(4-Pyrazol-1-yl-benzyl)-(pyridine-3-sulfonyl)-amino]-methyl}-phenyl)-propionic acid methyl ester.
The title compound of Step B was prepared from 3-{3-[(4-pyrazol-1-yl-benzylamino)-methyl]-phenyl}-propionic acid methyl ester, of Step A, and pyridine-3-sulfonyl chloride hydrochloride, of Preparation 2, following the method described in Example 1, Step B using triethylamine in place of N,N-diisopropylethylamine. 1H NMR (400 MHz, CDCl3) δ 9.03 (s, 1H), 8.77 (d, 1H), 8.04 (m, 1H), 7.87 (d, 1H), 7.68 (d, 1H), 7.54 (m, 2H), 7.42 (m, 1H), 7.14 (m, 3H), 7.07 (m, 1H), 6.88 (d, 1H), 6.83 (s, 1H), 6.44 (dd, 1H), 4.36 (s, 2H), 4.32 (s, 2H), 3.62 (s, 3H), 2.79 (t, 2H), 2.49 (t, 2H); MS 491 (M+1).

reactant | 3-{3-[(4-pyrazol-1-yl-benzylamino)-methyl]-phenyl}-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CNCC1=CC=C(C=C1)N1N=CC=C1)=O | C21H23N3O2
reactant | pyridine-3-sulfonyl chloride hydrochloride | Cl.N1=CC(=CC=C1)S(=O)(=O)Cl
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-(3-{[(4-Pyrazol-1-yl-benzyl)-(pyridine-3-sulfonyl)-amino]-methyl}-phenyl)-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CN(S(=O)(=O)C=1C=NC=CC1)CC1=CC=C(C=C1)N1N=CC=C1)=O | C26H26N4O4S
